US05571775
52. Preparation of t-Butyl N-(4-Chloro-2-ethoxy-3-pyridinyl)carbamate
To a solution of 15 g (63 mmol) of t-butyl N-(2-ethoxy-3-pyridinyl)carbamate in 175 mL of dry tetrahydrofuran was added with stirring at -60° C., 78 mL (132 mmol) of 1.7M t-butyl lithium in pentane. The resulting solution was allowed to warm to -10° C. over a 30 min. period and was then cooled to -60° C. A A 22.3 g (94 mmol) amount of hexachoroethane was added all at once with stirring and the mixture are allowed to warm to ambient temperature. It was then diluted with 600 mL of ether and the resulting solution was washed with 150 mL of water, dried over magnesium sulfate, filtered, and concentrated by evaporation. The residue was purified by column chromatography to obtain 11.1 g (65 percent of theory) of the title compound as a colorless solid melting at 73°-74° C.

reactant | t-butyl N-(2-ethoxy-3-pyridinyl)carbamate | 63 mmol, 15 g | C(C)OC1=NC=CC=C1NC(OC(C)(C)C)=O | C12H18N2O3
reactant | t-butyl lithium | 132 mmol, 1.7M, 78 mL | C(C)(C)(C)[Li]
reactant | hexachoroethane | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | tetrahydrofuran | 175 mL | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | ether | 600 mL | CCOCC | C4H10O
product | t-Butyl N-(4-Chloro-2-ethoxy-3-pyridinyl)carbamate | ClC1=C(C(=NC=C1)OCC)NC(OC(C)(C)C)=O | C12H17ClN2O3
